US08461161B2
To a mixture of 5-aminonicotinic acid (35 mg, 0.25 mmol), N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine (125 mg, 0.5 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (95 mg, 0.5 mmol) in N,N-dimethylformamide (2 mL) was added 1-hydroy-7-azabenzotriazole (1 mL, 0.5-0.7M in N,N-dimethylformamide, 0.5 mmol) then N-methylmorpholine (0.055 mL, 0.5 mmol) and the mixture was stirred at room temperature for 16 hours. After this time the mixture was diluted with ethyl acetate (40 mL), washed successively with saturated aqueous sodium hydrogen carbonate (2×30 mL) and brine (30 mL), dried (Na2SO4) and concentrated under reduced pressure to give a yellow oil which was purified by flash chromatography (silica, ethyl acetate/methanol) to give 5-amino-N-(3-{(1S)-1-[(6-chloropyrazin-2-yl)amino]ethyl}phenyl)nicotinamide (35 mg, 38%) as a pale yellow solid.

reactant | 5-aminonicotinic acid | 0.25 mmol, 35 mg | NC=1C=NC=C(C(=O)O)C1 | C6H6N2O2
reactant | N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine | 0.5 mmol, 125 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.5 mmol, 95 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 0.5 mmol, 0.055 mL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 5-amino-N-(3-{(1S)-1-[(6-chloropyrazin-2-yl)amino]ethyl}phenyl)nicotinamide | 35 mg, 38% | NC=1C=NC=C(C(=O)NC2=CC(=CC=C2)[C@H](C)NC2=NC(=CN=C2)Cl)C1 | C18H17ClN6O
